US08729068B2
To a mixture of 16.0 g of methyl 4-[3-(4-aminophenyl)propyl]benzoate, 7.70 g of cyanoacetic acid, and 50 mL of DMF was added 17.1 g of EDCI/hydrochloride under ice-cooling. After stirring at room temperature for 18 hours, to the reaction mixture was added 200 mL of water at room temperature. After vigorous stirring at room temperature for 30 minutes, the precipitate was collected by filtration to obtain 19.3 g of methyl 4-(3-{4-[(cyanoacetyl)amino]phenyl}propyl)benzoate as a beige solid.

reactant | methyl 4-[3-(4-aminophenyl)propyl]benzoate | 16.0 g | NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C17H19NO2
reactant | cyanoacetic acid | 7.70 g | C(#N)CC(=O)O | C3H3NO2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | EDCI hydrochloride | 17.1 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 200 mL | O | H2O
product | methyl 4-(3-{4-[(cyanoacetyl)amino]phenyl}propyl)benzoate | 19.3 g | C(#N)CC(=O)NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C20H20N2O3
